US08975254B2
c) (E)-N-(2-(5-(4-chloro-3-(trifluoromethyl)phenyl)furan-2-yl)vinyl)picolinamide
(E)-2-(2-bromovinyl)-5-(4-chloro-3-(trifluoromethyl)phenyl)furan (0.501 g, 1.378 mmol) in toluene (2.4 ml) was added to a mixture of copper(I) iodide (0.014 g, 0.069 mmol), potassium carbonate (0.381 g, 2.756 mmol), picolinamide (0.202 g, 1.654 mmol) and N,N′-dimethylethylene diamine (0.0149 ml, 0.0138 mmol) under nitrogen. The reaction mixture was refluxed for 7.5 h and allowed to cool to RT. It was then filtrated through a layer of silica and the filter cake was washed with EtOAc. The filtrate was evaporated to dryness and purified with CombiFlash using heptane-DCM as eluent system affording 0.046 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 6.54 (d, 1H), 6.70 (d, 1H), 7.26 (d, 1H), 7.61-7.70 (m, 2H), 7.77 (d, 1H), 7.99-8.02 (m, 1H), 8.04-8.09 (m, 2H), 8.13 (m, 1H), 8.74 (m, 1H), 11.20 (d, 1H).

reactant | (E)-2-(2-bromovinyl)-5-(4-chloro-3-(trifluoromethyl)phenyl)furan | 1.378 mmol, 0.501 g | Br/C=C/C=1OC(=CC1)C1=CC(=C(C=C1)Cl)C(F)(F)F | C13H7BrClF3O
reactant | potassium carbonate | 2.756 mmol, 0.381 g | C([O-])([O-])=O.[K+].[K+]
reactant | picolinamide | 1.654 mmol, 0.202 g | N1=C(C=CC=C1)C(=O)N | C6H6N2O
reactant | N,N′-dimethylethylene diamine | 0.0138 mmol, 0.0149 ml | CNCCNC | C4H12N2
solvent | toluene | 2.4 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) iodide | 0.069 mmol, 0.014 g | [Cu]I
product | (E)-N-(2-(5-(4-chloro-3-(trifluoromethyl)phenyl)furan-2-yl)vinyl)picolinamide | 0.046 g | ClC1=C(C=C(C=C1)C1=CC=C(O1)/C=C/NC(C1=NC=CC=C1)=O)C(F)(F)F | C19H12ClF3N2O2
